US08729068B2
To a mixture of 1.00 g of 2-(trimethylsilyl)ethyl 3-{[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoate and 10 mL of DMF were added 0.63 g of 2-bromoethylmethyl ether and 0.94 g of potassium carbonate at room temperature, followed by stirring at 60° C. overnight. The reaction mixture was cooled to room temperature, and then water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine in this order, and dried over anhydrous sodium sulfate. The resultant was concentrated under reduced pressure, and to a mixture of the obtained residue and 10 mL of THF was added a solution of TBAF in THF (1.0 M, 4.0 mL), followed by stirring at room temperature for 3 hours. A solution of TBAF in THF (1.0 M, 2.0 mL) was further added thereto, followed by stirring at room temperature for 1.5 hours. The reaction mixture was diluted with ethyl acetate, and then washed with 0.2 M hydrochloric acid, water, and saturated brine in this order. The obtained organic layer was dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to obtain 915 mg of 3-{[trans-4-(methoxycarbonyl)cyclohexyl](2-methoxyethyl)sulfamoyl}benzoic acid as a colorless amorphous solid.

reactant | 2-(trimethylsilyl)ethyl 3-{[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoate | 1.00 g | COC(=O)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C20H31NO6SSi
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | 2-bromoethylmethyl ether | 0.63 g | BrCCOC | C3H7BrO
reactant | potassium carbonate | 0.94 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 3-{[trans-4-(methoxycarbonyl)cyclohexyl](2-methoxyethyl)sulfamoyl}benzoic acid | 915 mg | COC(=O)[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C=1C=C(C(=O)O)C=CC1)CCOC | C18H25NO7S
